US07851493B2
To a stirred solution of 1.5 g of {4-[3-(benzyloxy)propyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol in 15 mL of dichloromethane were added 0.484 g of methanesulfonylchloride and 1.03 mL of triethylamine. The solution was stirred for 2 h at room temperature. The mixture was diluted with dichloromethane and poured into water. The aqueous layer was separated and extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 1.65 g of crude product as a yellow oil. Purification by column chromatography on silica gel (heptane 90/ethyl acetate 10) gave 0.840 g of 4-(3-benzyloxy-propyl)-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole.

reactant | {4-[3-(benzyloxy)propyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}methanol | 1.5 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C21H20F3NO2S
reactant | methanesulfonylchloride | 0.484 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.03 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-(3-benzyloxy-propyl)-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 0.840 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C21H19ClF3NOS
